US07759337B2
Synthesis of N-Cyclopropyl-4-methyl-3-{1-[(3R)-3-methylmorpholin-4-yl]phthalazin-6-yl}benzamide
(R)-3-Methylmorpholine (93 mg, 919 μmol) was dissolved in p-xylene (0.460 mL) before 6-bromo-1-chlorophthalazine (112 mg, 460 μmol) was added. The reaction mixture was heated to 165° C. for 1.5 h, then diluted with ethyl alcohol (4.61 mL) before N-cyclopropyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide (153 mg, 507 μmol), tetrakis(triphenylphosphine)palladium (27 mg, 23 μmol), and potassium carbonate—1.5 M in water (1229 μl, 1843 μmol) were added. The mixture was heated to 90° C. for 1 h, diluted with 50 mL of ethyl acetate, added to a separatory funnel, partitioned with sodium bicarbonate (saturated, aqueous), washed 2 times with 20 mL of sodium bicarbonate (saturated, aqueous) and separated. The organic layers were dried over sodium sulfate, concentrated, and purified by flash chromatography to give the title compound. MS (ES+): 403(M+H)+.

reactant | (R)-3-Methylmorpholine | 919 μmol, 93 mg | C[C@H]1NCCOC1 | C5H11NO
reactant | 6-bromo-1-chlorophthalazine | 460 μmol, 112 mg | BrC=1C=C2C=NN=C(C2=CC1)Cl | C8H4BrClN2
reactant | N-cyclopropyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 507 μmol, 153 mg | C1(CC1)NC(C1=CC(=C(C=C1)C)B1OC(C(O1)(C)C)(C)C)=O | C17H24BNO3
reactant | potassium carbonate | 1.5 M | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1843 μmol, 1229 μl | O | H2O
solvent | p-xylene | 0.460 mL | CC=1C=CC(=CC1)C | C8H10
solvent | ethyl alcohol | 4.61 mL | C(C)O | C2H6O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 23 μmol, 27 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-Cyclopropyl-4-methyl-3-{1-[(3R)-3-methylmorpholin-4-yl]phthalazin-6-yl}benzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)C=1C=C2C=NN=C(C2=CC1)N1[C@@H](COCC1)C)=O | C24H26N4O2
